US09301951B2
Intermediate 76a: 1-(3-(trifluoromethyl)phenyl)ethanamine
Into a 150 mL 3-necked round bottom flask, was placed ethanol (25 mL). NH3 gas was added at 0° C. The mixture was stirred for 1 h at 0° C. Into a 150-mL sealed tube, was placed a solution of 1-(3-(trifluoromethyl)phenyl)ethanone (2 g, 10.64 mmol, 1.00 equiv) in ethanol (5 mL), and Ti[OCH(CH3)2]4 (6.04 g, 21.13 mmol, 2.00 equiv). This was followed by the addition of the above solution of NH3 (gas) in ethanol (25 mL). The mixture was stirred overnight at 48° C. To this was added NaBH4 (600 mg, 15.79 mmol, 1.48 equiv). The resulting solution was stirred for 3 h at room temperature. The resulting solution was diluted with 10 mL of ammonia and the solids were filtered out. The resulting mixture was concentrated under vacuum. The residue was applied onto a silica gel column and eluted with dichloromethane/methanol (50:1). The product was obtained as 1 g (50%) of a yellow oil.

reactant | 1-(3-(trifluoromethyl)phenyl)ethanone | 10.64 mmol, 2 g, 1.00 equiv | FC(C=1C=C(C=CC1)C(C)=O)(F)F | C9H7F3O
reactant | NaBH4 | 15.79 mmol, 600 mg, 1.48 equiv | [BH4-].[Na+]
reactant | ammonia | 10 mL | N | H3N
solvent | ethanol | 5 mL | C(C)O | C2H6O
solvent | ethanol | 25 mL | C(C)O | C2H6O
solvent | ethanol | 25 mL | C(C)O | C2H6O
product | 1-(3-(trifluoromethyl)phenyl)ethanamine | 1 g, 50% | FC(C=1C=C(C=CC1)C(C)N)(F)F | C9H10F3N
